* Schematics Netlist *



C_Ck         $N_0002 $N_0001 30p 
I_Ib1         $N_0003 Ubm DC 1mA
I_Ib2         $N_0003 Ubm DC 1mA
V_Ub1         Ubp 0 DC 15V
V_Ub2         0 Ubm DC 15V
V_Ue         UP 0 DC 0 AC 1
+ PULSE -1V 1V 0 10ns 10ns {0.5/1MegaHz-10ns} {1/1MegaHz}
Q_T2         $N_0002 UP $N_0003 [Ubm] N1 1
Q_T3         $N_0002 $N_0002 Ubp [Ubp] P1 1
Q_T4         $N_0001 $N_0002 Ubp [Ubp] P1 1
C_CDC         Uinm 0 1e10 
Q_T1         Ubp Uinm $N_0003 [Ubm] N1 1
L_LDC         Uinm Ua 1e10 
Q_T5         Ubp $N_0001 Ua [Ubm] N1 1
I_Ib3         $N_0001 Ubm DC 1mA
I_Ib4         Ua Ubm DC 1mA
